US05134236
To a stirred mixture of 80.0 g of 4-fluorophenylhydrazine hydrochloride in 500 ml of dry pyridine, under nitrogen and cooled in an ice bath, was added, dropwise, 85.8 g of 2-fluorobenzoyl chloride. Upon completion of the addition, the ice bath was removed and the reaction mixture stirred at ambient temperature for 16 hours. The reaction mixture was poured into water and a precipitate formed. The precipitate was recrystallized from ethanol-water to give 97.1 g (80%) of 2-fluorobenzoic acid, 2-(4-fluorophenyl)hydrazide.

reactant | 4-fluorophenylhydrazine hydrochloride | 80.0 g | Cl.FC1=CC=C(C=C1)NN
reactant | 2-fluorobenzoyl chloride | 85.8 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 2-fluorobenzoic acid, 2-(4-fluorophenyl)hydrazide | 97.1 g, 80% | FC1=CC=C(C=C1)NNC(C1=C(C=CC=C1)F)=O | C13H10F2N2O
